US04874861
To a solution of 0.9 g (0.005 mol) of 2-t-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone and 1.2 g (0.005 mol) of p-trimethylsilyl benzylbromide dissolved in 20 ml of N,N-dimethylformamide was added 1.0 g (0.007 mol) of potassium carbonate at room temperature under stirring. After addition, the resulting mixture was stirred at 120° C. for three hours. After allowed to cool, the reaction mixture was poured into 200 ml of water and extracted with 100 ml of benzene. The resulting benzene layer was washed with 100 ml of water, dried over anhydrous sodium sulfate, and freed of solvent by distillation to give 1.8 g of crude product. The crude product was recrystallized from 20 ml of hexane to obtain 1.2 g of 2-t-butyl-4-methyl-5-(p-trimethylsilyl benzyloxy)-3(2H)-pyridazinone.

reactant | 2-t-butyl-5-hydroxy-4-methyl-3(2H)-pyridazinone | 0.005 mol, 0.9 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)O | C9H14N2O2
reactant | p-trimethylsilyl benzylbromide | 0.005 mol, 1.2 g | C[Si](C1=CC=C(CBr)C=C1)(C)C | C10H15BrSi
reactant | potassium carbonate | 0.007 mol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-methyl-5-(p-trimethylsilyl benzyloxy)-3(2H)-pyridazinone | 1.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)OCC1=CC=C(C=C1)[Si](C)(C)C | C19H28N2O2Si
